US06472393B1
(4-Benzyloxy-5-methoxy-2-nitro-phenyl)-(4-cyano-phenylamino)-acetic acid methyl ester (4.5 g, 10 mmole) was dissolved in dimethoxyethane and lithium borohydride (0.210 g, 10 mmole) added. The reaction was heated to reflux for three hours and cooled to room temperature. The reaction was quenched with water containing acetic acid and diluted with ethyl acetate. After transferring to a separatory funnel, the organic layer was washed with water several times. The organic layer was dried over anhydrous sodium sulfate, filtered and the solvent removed. The crude material was then submitted to flash chromatography to yield 3.1 g of 4-[1-(4-Benzyloxy-5-methoxy-2-nitro-phenyl)-2-hydroxy-ethylamino]-benzonitrile (74%). 1HNMR(CDCl3):7.77 (s, 1H), 7.3-7.5 (m, 7H), 7.15 (s, 1H), 6.42 (d, 2H), 5.4 (bs, 1H), 5.18 (dd AB syst., 2H), 4.15 (dd, 1H), 3.83 (s, 3H), 3.79-3.86 (dd, 1H).

reactant | (4-Benzyloxy-5-methoxy-2-nitro-phenyl)-(4-cyano-phenylamino)-acetic acid methyl ester | 10 mmole, 4.5 g | COC(C(NC1=CC=C(C=C1)C#N)C1=C(C=C(C(=C1)OC)OCC1=CC=CC=C1)[N+](=O)[O-])=O | C24H21N3O6
reactant | lithium borohydride | 10 mmole, 0.210 g | [BH4-].[Li+]
solvent | dimethoxyethane | C(OC)COC | C4H10O2
product | 4-[1-(4-Benzyloxy-5-methoxy-2-nitro-phenyl)-2-hydroxy-ethylamino]-benzonitrile | 3.1 g, 74% | C(C1=CC=CC=C1)OC1=CC(=C(C=C1OC)C(CO)NC1=CC=C(C#N)C=C1)[N+](=O)[O-] | C23H21N3O5
